US04710508
A mixture of 50 g (0.41 mol) of 1-(3-pyridinyl)ethanone and 29 g (0.42 mol) of hydroxylamine hydrochloride in 250 ml of methanol was heated under reflux for five hours. Upon cooling to room temperature, a white solid separated from the reaction mixture. This material was collected by filtration and the filtrate was concentrated to yield additional white solid. The combined solids were dissolved in water and the solution was made weakly basic by the addition of sodium bicarbonate solution while cooling. The white precipitate which formed was separated by filtration to yield 55.4 g of 1-(3-pyridinyl)ethanone oxime, mp 115°-117° C.

reactant | 1-(3-pyridinyl)ethanone | 0.41 mol, 50 g | N1=CC(=CC=C1)C(C)=O | C7H7NO
reactant | hydroxylamine hydrochloride | 0.42 mol, 29 g | Cl.NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | water | O | H2O
product | 1-(3-pyridinyl)ethanone oxime | 55.4 g | N1=CC(=CC=C1)C(C)=NO | C7H8N2O
